US07135475B2
A suspension of 6-amino-1-butyl-1H-pyrimidine-2,4-dione (3.0 g, 16.4 mmol) in a 1N aqueous hydrochloric acid solution (33 mL) at 25° C. was treated with sodium nitrite (1.47 g, 21.32 mmol) in portions. The pH was adjusted to pH=5 by the addition of ammonium hydroxide (22 mL). The reaction was stirred at 25° C. for 10 min. At this time, the resulting solid was collected by filtration, washed with a pH=5 aqueous buffer, and then dried in vacuo to afford 6-amino-1-butyl-5-nitroso-1H-pyrimidine-2,4-dione (2.89 g, 83%) as a purple solid: LR-MS for C8H12N4O3 (M+H)+ at m/z=213.

reactant | 6-amino-1-butyl-1H-pyrimidine-2,4-dione | 16.4 mmol, 3.0 g | NC1=CC(NC(N1CCCC)=O)=O | C8H13N3O2
reactant | hydrochloric acid | 1N, 33 mL | Cl | ClH
reactant | sodium nitrite | 21.32 mmol, 1.47 g | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | 22 mL | [OH-].[NH4+]
product | 6-amino-1-butyl-5-nitroso-1H-pyrimidine-2,4-dione | 2.89 g, 83% | NC1=C(C(NC(N1CCCC)=O)=O)N=O | C8H12N4O3
